US09145387B2
Step 1: (S)-tert-butyl 3-((4-chloro-5-(trifluoromethyl)pyrimidin-2-yl)amino)piperidine-1-carboxylate (Intermediate 1)
To a solution of 2,4-dichloro-5-(trifluoromethyl)pyrimidine (5 g, 23 mmol) in dichloroethane: t-butanol (50 ml, 1:1) was added dry zinc chloride (3.7 g, 27 mmol) and triethylamine (2.52 g, 25 mmol), and the mixture was stirred at rt for 1 h (pH should not be >7). To this mixture, (S)-tert-butyl 3-aminopiperidine-1-carboxylate (4.9 g, 25 mmol) was added and stirring continued at rt for 16 h. TLC showed formation of the major compound (0.2 Rf) and a minor other isomer (0.25 Rf) and ˜10% starting material in 15% EtOAc: hexane solvent system. Solvents were evaporated, and crude was diluted with ice cold water (50 mL) and stirred for 5 min at rt to get a pale yellow gummy mass. The crude pale yellow gummy mass (6 g) was taken in 60 mL hexane and stirred for 10 min at rt to get a solid which was immediately filtered to get the pure desired compound (5 g, 57%). MS m/z: 381.1 (ES+, M+H).

reactant | 2,4-dichloro-5-(trifluoromethyl)pyrimidine | 23 mmol, 5 g | ClC1=NC=C(C(=N1)Cl)C(F)(F)F | C5HCl2F3N2
reactant | t-butanol | 50 ml | C(C)(C)(C)O | C4H10O
reactant | triethylamine | 25 mmol, 2.52 g | C(C)N(CC)CC | C6H15N
reactant | (S)-tert-butyl 3-aminopiperidine-1-carboxylate | 25 mmol, 4.9 g | N[C@@H]1CN(CCC1)C(=O)OC(C)(C)C | C10H20N2O2
solvent | dichloroethane | ClC(C)Cl | C2H4Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | hexane | CCCCCC | C6H14
solvent | hexane | 60 mL | CCCCCC | C6H14
catalyst | zinc chloride | 27 mmol, 3.7 g | [Cl-].[Zn+2].[Cl-]
product | (S)-tert-butyl 3-((4-chloro-5-(trifluoromethyl)pyrimidin-2-yl)amino)piperidine-1-carboxylate | 5 g, 57% | ClC1=NC(=NC=C1C(F)(F)F)N[C@@H]1CN(CCC1)C(=O)OC(C)(C)C | C15H20ClF3N4O2
